US04024139
80 g. of the methyl half ester of 3-methylglutaric acid (Linstead, lunt and Weedon, J. Chem. Soc. 1950, 3331) was converted to methyl 4-bromo-3-methylbutyrate as described by Marks and Polgar, J. Chem. Soc. 1955, 3854. The bromoester (51 g.) was reduced with sodium bis (2-methoxyethoxy)aluminum hydride in a mixture of toluene and ether yielding 43 g. of 4-bromo-3-methylbutyraldehyde. The aldehyde and 49 g. of 5-chlorosalicylhydroxamic acid were condensed by the method described in Example 1 and the product was ring-closed with 10 percent aqueous sodium hydroxide to give 8-chloro-3-methyl-2,3,4,4a-tetrahydro-10H-1,2-oxazino(3,2-b) (1,3)benzoxazin-10-one which melted at 121- 140° C. after recrystallization from ethanol.

reactant | 3-methylglutaric acid | CC(CC(=O)O)CC(=O)O | C6H10O4
reactant | methyl 4-bromo-3-methylbutyrate | BrCC(CC(=O)OC)C | C6H11BrO2
reactant | sodium bis (2-methoxyethoxy)aluminum hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | 4-bromo-3-methylbutyraldehyde | BrCC(CC=O)C | C5H9BrO
reactant | 5-chlorosalicylhydroxamic acid | ClC1=CC=C(C(C(=O)NO)=C1)O | C7H6ClNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ether | 43 g | CCOCC | C4H10O
product | 8-chloro-3-methyl-2,3,4,4a-tetrahydro-10H-1,2-oxazino(3,2-b) (1,3)benzoxazin-10-one | ClC=1C=CC2=C(C(N3C(O2)CC(CO3)C)=O)C1 | C12H12ClNO3
